US06852830B2
Synthesis of (2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl-methoxy)-acetic acid (M2)
(2,3-Dihydro-thieno[3,4-b][1,4]dioxin-2-ylmethoxy)-acetic acid ethyl ester (10.2 g, 40 mmol) was dissolved into ethanol (100 mL) and water (50 mL), blanketed by nitrogen. Potassium hydroxide (2.9 g) was added and the mixture was heated at 35° C. for 30 min. The solvents were then removed by distillation, ethyl acetate (50 mL), ice-water (50 mL) and concentrated hydrochloric acid (5 mL) were added and the mixture was vigorously stirred. Subsequently, the organic phase was separated, washed with a saturated aqueous solution of sodium chloride, dried with anhydrous magnesium sulphate and concentrated. Finally the raw product was recrystallized from ethyl acetate/hexanes (1/1) resulting in pure (2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-ylmethoxy)-acetic acid as demonstrated by NMR and mass spectroscopy.

reactant | (2,3-Dihydro-thieno[3,4-b][1,4]dioxin-2-ylmethoxy)-acetic acid ethyl ester | 40 mmol, 10.2 g | C(C)OC(COCC1COC=2C(O1)=CSC2)=O | C11H14O5S
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | Potassium hydroxide | 2.9 g | [OH-].[K+]
solvent | water | 50 mL | O | H2O
product | (2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl-methoxy)-acetic acid | O1C=2C(OCC1COCC(=O)O)=CSC2 | C9H10O5S
